US07902367B2
Step 80a) 1-(tert-Butoxycarbonyl)-3-[(4-phenylthiazol-2-yl)thiomethyl]piperidine
2-Mercapto-4-phenylthiazole (304 mg, 1.54 mmol) and potassium carbonate (261 mg, 1.85 mmol) were added to 1-(tert-butoxycarbonyl)-3-iodomethylpiperidine (500 mg, 1.54 mmol) in N,N-dimethylformamide (5 mL). The mixture was stirred at room temperature for 30 min. Subsequently, water was added and the mixture was extracted with ethyl acetate. The extract was then washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=40:1->10:1) gave 598 mg (99%) of the desired compound as a colorless oil.

reactant | 2-Mercapto-4-phenylthiazole | 1.54 mmol, 304 mg | SC=1SC=C(N1)C1=CC=CC=C1 | C9H7NS2
reactant | potassium carbonate | 1.85 mmol, 261 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(tert-butoxycarbonyl)-3-iodomethylpiperidine | 1.54 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)CI | C11H20INO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(tert-Butoxycarbonyl)-3-[(4-phenylthiazol-2-yl)thiomethyl]piperidine | 598 mg, 99% | C(C)(C)(C)OC(=O)N1CC(CCC1)CSC=1SC=C(N1)C1=CC=CC=C1 | C20H26N2O2S2
